US05140031
A. N-Cyano-N'-(4-trifluoromethylphenyl)thiourea
The suspension of monosodium cyanamide (0.63 g, 9.8 mmol) in absolute ethanol (50 mL) was slowly treated with 4-trifluoromethylphenylisothiocyanate (2.0 g, 9.8 mmol). The reaction was allowed to stir at room temperature for 1 hour and then heated at 75° C. for 4 hours. The reaction was cooled to room temperature and the colorless solid was filtered and washed with ethanol to give the title compound (2.0 g) as a colorless solid.

reactant | monosodium cyanamide | 9.8 mmol, 0.63 g | N#CN.[Na]
reactant | 4-trifluoromethylphenylisothiocyanate | 9.8 mmol, 2.0 g | FC(C1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NS
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-Cyano-N'-(4-trifluoromethylphenyl)thiourea | 2.0 g | C(#N)NC(=S)NC1=CC=C(C=C1)C(F)(F)F | C9H6F3N3S
